US04965367
1,2-Dimethyl-1-(N-methylacetamido)silacyclobutane
In accordance with the general procedure of Example 1, when 1-chloro-1,2dimethylsilacyclobutane and N-methyl-N-(trimethylsilyl)acetamide are reacted it is predicted that the title compound is obtained.

reactant | 1-chloro-1,2dimethylsilacyclobutane | Cl[Si]1(C(CC1)C)C | C5H11ClSi
reactant | N-methyl-N-(trimethylsilyl)acetamide | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
product | 1,2-Dimethyl-1-(N-methylacetamido)silacyclobutane | C[Si]1(C(CC1)C)N(C(C)=O)C | C8H17NOSi
